US08957025B2
N-(tert-Butoxycarbonyl)-2,6-dimethyl-L-tyrosyl-N-{(2R)-2-[(benzyloxycarbonyl)amino]-3-phenylpropyl}-D-alaninamide
Benzyl-[(1R)-2-(D-alanylamino)-1-benzylethyl]carbamate (145 mg, 0.41 mmol) was combined with N-(tert-butoxycarbonyl)-2,6-dimethyl-L-tyrosine (described in BioOrg. Med. Chem. Letts, 2003, p 599; 129 mg, 0.41 mmol), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride salt (94 mg, 0.49 mmol), 1-hydroxybenzotriazole monohydrate (69 mg, 0.45 mmol) and N-methylmorpholine (42 mg, 0.41 mmol) in DMF (5 mL) at room temperature under a nitrogen atmosphere. The mixture was stirred at room temperature for 16 h and then diluted with 10 mL of EtOAc and washed with 10 mL of a 10% aqueous solution of citric acid, 10 mL of water, 10 mL of a 3% aqueous solution of sodium bicarbonate, and finally 10 mL of a saturated aqueous brine solution. The organic layer was dried over sodium sulfate and evaporated under reduced pressure to give 243 mg (92%) of a white foam of the title compound, which was used with no further purification.

reactant | Benzyl-[(1R)-2-(D-alanylamino)-1-benzylethyl]carbamate | 0.41 mmol, 145 mg | C(C1=CC=CC=C1)OC(N[C@@H](CNC([C@H](N)C)=O)CC1=CC=CC=C1)=O | C20H25N3O3
reactant | N-(tert-butoxycarbonyl)-2,6-dimethyl-L-tyrosine | 0.41 mmol, 129 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=C(C=C(C=C1C)O)C)C(=O)O | C16H23NO5
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride salt | 0.49 mmol, 94 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.45 mmol, 69 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.41 mmol, 42 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | N-(tert-Butoxycarbonyl)-2,6-dimethyl-L-tyrosyl-N-{(2R)-2-[(benzyloxycarbonyl)amino]-3-phenylpropyl}-D-alaninamide | 243 mg, 92% | C(C)(C)(C)OC(=O)N[C@@H](CC1=C(C=C(C=C1C)O)C)C(=O)N[C@H](C)C(=O)NC[C@@H](CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C36H46N4O7
